US09062048B2
Step A: 8-(tetrahydro-2H-pyran-2-yl)-1,4-dioxaspiro[4.5]decane
To a mixture of 8-(3,6-dihydro-2H-pyran-2-yl)-1,4-dioxaspiro[4.5]decane (190 mg, 0.847 mmol), as prepared in Example 2 step C, and Palladium on Carbon (118 mg, 0.055 mmol, 5%, “Degussa, wet”) was carefully added methanol (24 mL). The reaction flask was evacuated, backfilled with hydrogen via balloon and stirred at room temperature overnight. The catalyst was removed by filtration and the filtrate concentrated in vacuo to afford the product.

reactant | 8-(3,6-dihydro-2H-pyran-2-yl)-1,4-dioxaspiro[4.5]decane | 0.847 mmol, 190 mg | O1C(CC=CC1)C1CCC2(OCCO2)CC1 | C13H20O3
catalyst | Palladium on Carbon | 0.055 mmol, 118 mg | [Pd] | Pd
solvent | methanol | 24 mL | CO | CH4O
product | 8-(tetrahydro-2H-pyran-2-yl)-1,4-dioxaspiro[4.5]decane | O1C(CCCC1)C1CCC2(OCCO2)CC1 | C13H22O3
